US09108953B2
Preparation of 5-(N-cyclopentylsulfamoyl)-7-(3,5-dimethylisoxazol-4-yl)quinoxaline 1-oxide
A mixture of N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoxaline-5-sulfonamide (0.069 g, 0.18 mmol) and mCPBA (max 77% by weight, 0.083 g, 0.37 mM) in dichloromethane (3 mL) was stirred at room temperature for 2 hours. Additional mCPBA (0.166 g, 0.74 mM) was added and the reaction stirred for 16 hours at room temperature. Volatiles were removed under reduced pressure and the crude product purified by preparatory HPLC (5-95% MeCN/H2O, 0.1% TFA) to afford the product as a white solid.

reactant | N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoxaline-5-sulfonamide | 0.18 mmol, 0.069 g | C1(CCCC1)NS(=O)(=O)C=1C=2N=CC=NC2C=C(C1)C=1C(=NOC1C)C | C18H20N4O3S
reactant | mCPBA | 0.37 mM, 0.083 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | mCPBA | 0.74 mM, 0.166 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 5-(N-cyclopentylsulfamoyl)-7-(3,5-dimethylisoxazol-4-yl)quinoxaline 1-oxide | C1(CCCC1)NS(=O)(=O)C1=C2N=CC=[N+](C2=CC(=C1)C=1C(=NOC1C)C)[O-] | C18H20N4O4S
